US08183245B2
To a stirred solution of tert-butyl 4-({6-[1-(phenylsulfonyl)-5-(1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine-3-yl]pyrazin-2-yl}oxy)piperidine-1-carboxylate (0.075 g, 0.13 mmol) and iodoethane (11 pt, 0.14 mmol) in DMF (1.3 mL) at 0° C. was added sodium hydride (60% mineral oil dispersion; 6.0 mg, 0.15 mmol). The reaction mixture was stirred at 0° C. for 1 h then quenched with aqueous saturated sodium bicarbonate (5 mL). The reaction mixture was extracted with EtOAc (3×10 mL). The combined organic layers were dried over magnesium sulfate, filtered and concentrated. The crude residue was purified by silica gel chromatography (EtOAc/Hexanes gradient) to afford tert-butyl 4-({6-[5-(1-ethyl-1H-pyrazol-4-yl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine-3-yl]pyrazin-2-yl}oxy)piperidine-1-carboxylate as a yellow oil. LRMS (ESI) calculated for C32H35N7O5S [M+H]+, 630.2; found 630.2.

reactant | tert-butyl 4-({6-[1-(phenylsulfonyl)-5-(1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine-3-yl]pyrazin-2-yl}oxy)piperidine-1-carboxylate | 0.13 mmol, 0.075 g | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C=2C1=NC=C(C2)C=2C=NNC2)C2=CN=CC(=N2)OC2CCN(CC2)C(=O)OC(C)(C)C | C30H31N7O5S
reactant | iodoethane | 0.14 mmol | ICC | C2H5I
reactant | sodium hydride | 0.15 mmol, 6.0 mg | [H-].[Na+]
solvent | DMF | 1.3 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-({6-[5-(1-ethyl-1H-pyrazol-4-yl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine-3-yl]pyrazin-2-yl}oxy)piperidine-1-carboxylate | C(C)N1N=CC(=C1)C=1C=C2C(=NC1)N(C=C2C2=CN=CC(=N2)OC2CCN(CC2)C(=O)OC(C)(C)C)S(=O)(=O)C2=CC=CC=C2 | C32H35N7O5S
